US07317026B2
(2-pyrrolidinoethyl)triphenylphosphonium bromide.
A mixture of 2-phenoxyethyl bromide (90.6 g, 0.45 mol), triphenylphosphine (119.2 g, 0.45 mol), and phenol (854 g) was heated to a melt and then stirred over a hot oil bath (107-114° C.) for ˜24 h. The reaction mixture was extracted with 6:1 heptane/EtOAc (3×2 L), 9:1 heptane/EtOAc (3×0.5 L), and heptane (300 mL) to give an oil that solidified. After dissolving the reaction mixture in DMSO, the mixture was warmed, treated with pyrrolidine (150 mL), and stirred over a hot oil bath (50-55° C.) for 1.5 h. The reaction mixture was cooled to room temperature, seeded for crystallization, and treated slowly and intermittently with increasing amounts of t-butyl methyl ether (TBME) until it was evident that crystallization was complete. The solid was filtered, washed with TBME and then with heptane, and vacuum dried to give 90.27 g of the desired product. The structure was confirmed by 1H NMR.

reactant | 2-phenoxyethyl bromide | 0.45 mol, 90.6 g | O(C1=CC=CC=C1)CCBr | C8H9BrO
reactant | triphenylphosphine | 0.45 mol, 119.2 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | phenol | 854 g | C1(=CC=CC=C1)O | C6H6O
reactant | pyrrolidine | 150 mL | N1CCCC1 | C4H9N
solvent | DMSO | CS(=O)C | C2H6OS
product | (2-pyrrolidinoethyl)triphenylphosphonium bromide | 90.27 g | [Br-].N1(CCCC1)CC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C24H27NP.BrH/c1-4-12-22(13-5-1)26(23-14-6-2-7-15-23,24-16-8-3-9-17-24)21-20-25-18-10-11-19-25;/h1-9,12-17H,10-11,18-21H2;1H/q+1;/p-1
